US06291464B1
To a stirred solution of 1-nitrosohomopiperazine (4.174 g) and triethylamine (9 ml) in dichloromethane (25 ml) was added dropwise benzyloxycarbonyl chloride (5 ml) at 0° C. The reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was diluted with water and separated. The organic layer was washed with water (×2), brine, dried over magnesium sulfate and concentrated to give 1-benzyloxycarbonyl-4-nitrosohomopiperazine (6.0 g). This product was used for the next step without purification.

reactant | 1-nitrosohomopiperazine | 4.174 g | N(=O)N1CCNCCC1 | C5H11N3O
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-benzyloxycarbonyl-4-nitrosohomopiperazine | 6.0 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CCC1)N=O | C13H17N3O3
